US05028254
Production of 4-(4-chlorobenzyl)-7-ethyl-1-oxaspiro[2.4]heptane the intermediate compounds Nos. 93, 94, 95 and 96 in Table 2)
Into 100 ml of chloroform, 8.0 g of 2-(4-chlorobenzyl)-5-ethyl-1-methylenecyclopentane (the compound No. 129 shown in Table 3) were dissolved, and then 11.6 g of m-chloroperbenzoic acid were added to the thus formed mixture within 5 min, and the whole mixture was stirred for 2 hours at room temperature. In the next place, 11 g of calcium hydroxide were added to the mixture under cooling with iced water, and the whole mixture was stirred for 30 min at room temperature.

reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(4-chlorobenzyl)-5-ethyl-1-methylenecyclopentane | 8.0 g | ClC1=CC=C(CC2C(C(CC2)CC)=C)C=C1 | C15H19Cl
reactant | m-chloroperbenzoic acid | 11.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | calcium hydroxide | 11 g | [OH-].[Ca+2].[OH-]
solvent | water | O | H2O
product | 4-(4-chlorobenzyl)-7-ethyl-1-oxaspiro[2.4]heptane | ClC1=CC=C(CC2C3(CO3)C(CC2)CC)C=C1 | C15H19ClO
